* C:\Users\Alejandro\Google Drive\UTN_2021_y_English\EA3\Proyecto 2021\Gavegno-Morandi-Scarini-Sobral\Proyecto-EA3\Spice\Modelo_eléctrico.asc
Cstray N001 0 {C_stray}
C17 N001 N004 {C_17}
CD1 N004 0 {C_D1}
L1 N001 0 {L_1}
Rp N001 0 {R_p}
C6 N001 0 {C_6}
C5 N001 N003 {C_5}
C3 N002 N005 {C_3}
C4 N005 N006 {C_4}
C03 N002 N005 {C_03}
C04 N005 0 {C_04}
Rn N002 N005 {R_n}
V1 N003 0 1 AC 1
.param C_stray = 2.7e-12
.param C_17= 1.5e-12
.param C_6 = 1.5e-12
.param C_5 = 1.5e-12
.param C_03 = 2.4e-12
.param C_04 = 2.4e-12
.param C_3 = 2.7e-12
.param C_4 = 1e-12
.param C_D1 = 5.75e-12
.param L_1 = 5e-9
.param R_n = -32
.param R_p = 3.95e3
.ac dec 10000 800e6 1000e6
* Capacitancia\nparásita PCB
* Acoplamiento\nVaractor
* Inductor\nCerámico
* MAX2620
* Puerto de test
.backanno
.end
