* C:\Users\Alejandro\Google Drive\UTN_2021_y_English\EA3\Proyecto 2021\Gavegno-Morandi-Scarini-Sobral\Proyecto-EA3\Spice\VCO Colpitt.asc
Q1 N003 N002 N005 0 BC547C
V1 N001 0 12
C1 OUT N005 100e-12
R1 N006 N005 1e3
L1 N006 0 100e-6
C2 N004 N005 68e-12
C3 N005 0 100e-12
L2 N004 0 1e-6
R2 N002 0 15e3
R3 N003 N002 27e3
R4 N003 N001 100
C4 N002 N004 100e-12
C5 0 N003 10e-9
.model NPN NPN
.model PNP PNP
.lib C:\Users\Alejandro\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2e-6 0
.backanno
.end
